US05223518
Step a: α-[(Trimethylsilyl)ethynyl]-benzenemethanol
Place lithium hexamethyldisilazane (20 mL of a 1 M solution in tetrahydrofuran, 20 mmol) under an argon atmosphere and cool to 0° C. Add, by dropwise addition, trimethylsilylacetylene (2.83 mL, 20 mmol) and stir for 1 hour at 0° C. Add benzaldehyde (2.03 mL, 20 mmol) in tetrahydrofuran (10 mL). Allow to warm to room temperature and stir for 1 hour. Pour the mixture into ethyl ether and water, separate the organic phase and evaporate the solvent in vacuo. Filter the oil through silica gel (20% ethyl acetate/hexane) and evaporate the solvent in vacuo to yield 4.09 g of the title compound.

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | trimethylsilylacetylene | 20 mmol, 2.83 mL | C[Si](C)(C)C#C | C5H10Si
reactant | benzaldehyde | 20 mmol, 2.03 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | α-[(Trimethylsilyl)ethynyl]-benzenemethanol | 4.09 g | C[Si](C)(C)C#CC(O)C1=CC=CC=C1 | C12H16OSi
